US05155240
In the same manner as in Example 1, a solution of an (R)-binaphthol-dichlorotitanium complex was obtained. This solution was cooled to -70° C. in a dry ice-acetone bath. To this solution were successively added 88 mg (1 mmole) of methyl glyoxylate and 136 mg (2 mmole) of 2-methyl-1,3-butadiene. Reaction was then allowed to proceed at -30° C. for 3 hours, and 10 ml of a sodiumhydrogen carbonate aqueous solution was added to the reaction mixture to terminate the reaction. The reaction mixture was filtered through Celite and then subjected to extraction once with a 20 ml of diethyl ether and twice with 20 ml of ethyl acetate. The extract was dried over anhydrous magnesium sulfate. Thereafter, the solvent was removed by evaporation, and the residue was purified by silica gel column chromatography (200 mesh; developing solvent: hexane/ethyl acetate=10/1), thereby obtaining 34 mg of desired optically active (6R)-6-methoxycarbonyl-4-methyl-5,6-dihydropyran (yield: 22%).

reactant | methyl glyoxylate | 1 mmole, 88 mg | C(C=O)(=O)OC | C3H4O3
reactant | 2-methyl-1,3-butadiene | 2 mmole, 136 mg | CC(=C)C=C | C5H8
solvent | sodiumhydrogen carbonate | 10 ml | C(O)([O-])=O.[Na+]
product | (6R)-6-methoxycarbonyl-4-methyl-5,6-dihydropyran | yield: 22% | COC(=O)[C@H]1CC(=CCO1)C | C8H12O3
